US05418232
In 25 ml of benzene was dissolved 13.77 g (97 mmol) of chlorosulfonyl isocyanate, and to the solution was added 12.7 g (88 mmol) of cis-methyl hydrogen cyclopropane-1,2-dicarboxylate which had been synthesized by the process of Journal of Organic Chemistry, Vol. 36, pp. 3356-3361 (1971). The mixture was stirred on an oil bath at 60° C. for 30 minutes. After cooling, 13.6 ml (176 mmol) of DMF was added thereto, followed by stirring for 30 minutes. Water was added thereto, and the reaction mixture was extracted with benzene. The organic layer was washed successively with water and a saturated sodium chloride aqueous solution, and dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure, and the residue was distilled under reduced pressure to obtain 6.14 g (55.7%) of methyl cis-2-cyanocyclopropanecarboxylate.

reactant | chlorosulfonyl isocyanate | 97 mmol, 13.77 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | cis-methyl hydrogen cyclopropane-1,2-dicarboxylate | 88 mmol, 12.7 g | [C@@H]1([C@H](C1)C(=O)O)C(=O)OC | C6H8O4
reactant | DMF | 176 mmol, 13.6 ml | CN(C)C=O | C3H7NO
reactant | Water | O | H2O
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | methyl cis-2-cyanocyclopropanecarboxylate | 6.14 g, 55.7% | C(#N)[C@@H]1[C@@H](C1)C(=O)OC | C6H7NO2
